US05053414
Synthesis of (2S)-1-benzoylpyrrolidin-2-al
A solution of DMSO (27.9 ml) in methylene chloride (50 ml) was added to a solution of oxalyl chloride (16.4 ml) in methylene chloride (300 ml) which was cooled to -70° C. A solution of (2S)-1-benzoylpyrrolidine-2-methanol (24.1 g) in methylene chloride (120 ml) was added dropiwise to the solution at -70° C. The mixture was stirred for 30 mins. Triethylamine (89.5 ml) was added dropwise to the reaction solution at -70° C. The mixture was stirred for 50 mins at the same temperature, and then rised to 0° C. gradually. Water was added to the solution. The mixture was extracted with methylene chloride. The extract was washed, dried, and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (23.7 g) having the following physical data:

reactant | DMSO | 27.9 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 16.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S)-1-benzoylpyrrolidine-2-methanol | 24.1 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CCC1)CO | C12H15NO2
reactant | Triethylamine | 89.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (2S)-1-benzoylpyrrolidin-2-al | 23.7 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CCC1)C=O | C12H13NO2
